US06921759B2
Benzyl 8-Hydroxyquinoline-7-carboxamide
A mixture of 8-hydroxyquinoline-7-carboxylic acid (0.50 g, 2.64 mmol), benzylamine (0.34 g, 3.17 mmol), 1-hydroxybenzotriazole (0.45 g, 2.91 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.56 g, 2.91 mmol), and triethylamine (1.6 mL, 11.6 mmol) in DMF (15 mL) was heated at 80° C. overnight. The reaction mixture was concentrated under vacuum. The residue was dissolved in methanol and subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provide the title compound as yellow solid.

reactant | 8-hydroxyquinoline-7-carboxylic acid | 2.64 mmol, 0.50 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | benzylamine | 3.17 mmol, 0.34 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-hydroxybenzotriazole | 2.91 mmol, 0.45 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.91 mmol, 0.56 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 11.6 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Benzyl 8-Hydroxyquinoline-7-carboxamide | C(C1=CC=CC=C1)C1=NC2=C(C(=CC=C2C=C1)C(=O)N)O | C17H14N2O2
